2190-03-11 07:02:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   - patient weaned on vent and tolerating SBT
   - a-line placed; levofed weaned
   - now s/p 2u PRBCs, appropriate hct bump
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-11**] 02:32 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-3-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-11**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 92 (72 - 92) bpm
   BP: 147/62(92) {104/42(-2) - 147/62(92)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,506 mL
                                                                    838 mL
   PO:
           TF:
   IVF:
                                                                      9 mL
                                                                    611 mL
   Blood products:
                                                                    498 mL
                                                                    228 mL
   Total out:
                                                                    140 mL
                                                                    145 mL
   Urine:
                                                                    140 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,366 mL
                                                                    693 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/40/94.[**Numeric Identifier 299**]/23/-1
   Ve: 7.4 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : at bases),
   transmitted vent sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube in place
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, toe amputations
   Skin:  Not assessed, stage III sacral decub
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   137 K/uL
   8.7 g/dL
   107 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   63 mg/dL
   124 mEq/L
   153 mEq/L
   26.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2190-3-11**]  12:59 AM
                             [**2190-3-11**]  03:24 AM
   WBC
   10.1
   Hct
   26.6
   Plt
   137
   Cr
   1.1
   TCO2
   24
   Glucose
   107
   Other labs: PT / PTT / INR:24.2/40.7/2.3, ALT / AST:32/60, Alk Phos / T
   Bili:74/0.6, Fibrinogen:353 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.2
   g/dL, LDH:380 IU/L, Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   78 y/o M with multiple medical problems including chronic aspiration,
   afib on coumadin, CVAs, and CAD who presents with hypoxia, consistent
   with PNA and possible septic shock and well as potential CHF.
   .
   # Hypoxic Respiratory Failure: likely secondary to CHF, although
   probably has component of infection.  Patient is a chronic aspirator
   per report and could have aspiration pneumonia.  Intubated in the
   emergency room.  Is tolerating the vent well on AC 50%, Vt 500, and
   PEEP of 5.
   - pneumonia treatment as below for HAP
   - continue mechanical ventilation; wean as possible, RISB in AM
   - hold on diuresis for now in setting of hypotension
   - repeat CXR in AM
   .
   # Hypotension/Shock: unclear etiology, could be either secondary to
   septic shock from PNA infection vs. cardiogenic shock from CHF.  Most
   likely component of sepsis or hypovolemia based on high Na and high Cr
   from baseline.
   - fluid resuccitate with free water
   - wean of levofed as tolerated for MAP >60
   - follow lactates
   .
   # Pneumonia: continue mechanical ventilation.  Treat as HAP as he is
   coming from an institution.
   - vanco/zosyn for broad coverage
   - sputum, blood cultures
   - consider flagyl if decompensating for aspiration
   - Will place PICC for likely prolonged antibiotic course and limited IV
   access
   .
   # NSTEMI: troponin leak, likely demand ischemia, had EKG changes with
   ST depression in precordial leads.
   - asa 325 mg daily, no heparin necessary
   - high dose statin
   - holding BB and ACEI in setting of hypotension
   - trend CEs
   - echo in AM
   .
   # CHF: echo last [**Month (only) **] showed mild hypokinesis and CXR consistent with
   fluid overload.  Rales on exam.  Likely component of his respiratory
   failure.  Hypotension resolved with 3 L NS and PRBCs.
   - hold on diuresis given hypotension
   - levofed as needed for now
   - echo in AM
   .
   # Afib: has hx of afib on coumadin, now is in NSR.
   - restart coumadin tomorrow if hct stable
   .
   # Anemia: has hct of 21 from baseline of high 20s to 30.  Unclear
   etiology of bleed. Has had transient lows like this in the past.
   - s/p 2 units of PRBCs
   - trend hcts q12hrs
   - guiac all stools
   .
   # DM: stable
   - ISS
   .
   # Hypernatremia: likely from poor PO intake and 4L free water deficit
   - D5W overnight, trend Na
   - Will check PM lytes
   .
   # UTI: has dirty UA, will follow culture.  Above abx should cover
   urinary pathogens.
   .
   # Sacral decubitus ulcer: wound consult today
   .
   # Dementia: unclear baseline, hold mirtazapine while sedated.
   .
   # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: on coumadin, famotidine
   # Access: fem line, art line
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP and could not
   get a hold of HCP.  [**Name (NI) 792**], daughter was reached and had verbal consent
   for blood.  [**Doctor First Name 792**] [**Telephone/Fax (1) 12035**], will call in AM.  Should also consider
   talking to PCP about code and mental status.
   # Code:  Full per discussion in ED
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-3-10**] 10:47 PM
   Arterial Line - [**2190-3-11**] 12:44 AM
   Prophylaxis:
   DVT: boot, systemic coumadin
   Stress ulcer:  famotidine
   VAP: HOB, oral care
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: ICU

2190-03-11 09:34:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well overnight - levophed weaned off.
   Passed SBT this AM.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2190-3-10**] 10:15 PM
 MULTI LUMEN - START [**2190-3-10**] 10:47 PM
 NASAL SWAB - At [**2190-3-10**] 10:54 PM
   MRSA
 ARTERIAL LINE - START [**2190-3-11**] 12:44 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-11**] 02:32 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-3-11**] 04:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-3-11**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 89 (72 - 92) bpm
   BP: 119/52(74) {104/42(-2) - 147/62(92)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,506 mL
                                                                  1,100 mL
   PO:
           TF:
   IVF:
                                                                      9 mL
                                                                    842 mL
   Blood products:
                                                                    498 mL
                                                                    228 mL
   Total out:
                                                                    140 mL
                                                                    195 mL
   Urine:
                                                                    140 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,366 mL
                                                                    905 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 483 (483 - 483) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/40/94.[**Numeric Identifier 299**]/23/-1
   Ve: 7.8 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   (bronchial at L base))
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   137 K/uL
   107 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   63 mg/dL
   124 mEq/L
   153 mEq/L
   26.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2190-3-11**]  12:59 AM
                             [**2190-3-11**]  03:24 AM
   WBC
   10.1
   Hct
   26.6
   Plt
   137
   Cr
   1.1
   TCO2
   24
   Glucose
   107
   Other labs: PT / PTT / INR:24.2/40.7/2.3, ALT / AST:32/60, Alk Phos / T
   Bili:74/0.6, Fibrinogen:353 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.2
   g/dL, LDH:380 IU/L, Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 IMPAIRED SKIN INTEGRITY
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   Hypoxemic respiratory failure:   Passed SBT this AM - will extubate
   today
   Pneumonia: Has LLL infiltrate on chest CT - vanc/Zosyn for HAP
   septic shock:  Off pressors, abx as above.
   acute renal failure:  Cr improving
   anemia: s/p 2 units pRBCs - follow Hcts, Guaiac stools
   chronic CHF:  getting TTE this AM
   NSTEMI:  trend troponins - known CAD with demand from current episode.
   Cont ASA
   Afib:  INR is therapeutic.  can restart coumadin tomorrow.
   hypernatremia:  Na 153 - fH20 repletion
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-3-10**] 10:47 PM
 need to D/C this femoral fem line
   Arterial Line - [**2190-3-11**] 12:44 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will need to meet with family regarding goals
   of care
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2190-03-12 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt. was extubated, did well.  Hyponatremia was improving.  PICC line
   was placed and fem line was DC'd.
   CE's initially trending upwards.
   Restarted his metoprolol for SBP 160-170
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-3-11**] 08:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-12**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-3-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-12**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.3
C (97.3
   HR: 84 (82 - 95) bpm
   BP: 149/61(93) {90/43(59) - 164/66(99)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,119 mL
                                                                  1,237 mL
   PO:
           TF:
   IVF:
                                                                  2,862 mL
                                                                    776 mL
   Blood products:
                                                                    228 mL
                                                                    461 mL
   Total out:
                                                                    915 mL
                                                                    320 mL
   Urine:
                                                                    915 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                    917 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (483 - 483) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.38/36/89.[**Numeric Identifier 299**]/21/-2
   Ve: 7.8 L/min
   PaO2 / FiO2: 254
   Physical Examination
   Labs / Radiology
   128 K/uL
   8.4 g/dL
   98 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   56 mg/dL
   119 mEq/L
   146 mEq/L
   25.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2190-3-11**]  12:59 AM
                             [**2190-3-11**]  03:24 AM
                             [**2190-3-11**]  10:40 AM
                             [**2190-3-11**]  03:13 PM
                             [**2190-3-11**]  05:43 PM
                             [**2190-3-11**]  05:53 PM
                             [**2190-3-12**]  02:45 AM
   WBC
   10.1
   12.4
   10.4
   Hct
   26.6
   28.9
   25.3
   Plt
   137
   169
   128
   Cr
   1.1
   1.1
   1.1
   TropT
   1.76
   1.82
   1.79
   1.70
   TCO2
   24
   22
   Glucose
   107
   127
   98
   Other labs: PT / PTT / INR:32.5/46.4/3.3, CK / CKMB /
   Troponin-T:446/30/1.70, ALT / AST:32/60, Alk Phos / T Bili:74/0.6,
   Fibrinogen:353 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:380
   IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y/o M with multiple medical problems including chronic aspiration,
   afib on coumadin, CVAs, and CAD who presents with hypoxia, consistent
   with PNA and possible septic shock and well as potential CHF.
   .
   # Hypoxic Respiratory Failure: likely secondary to CHF, although
   probably has component of infection.  Patient is a chronic aspirator
   per report and could have aspiration pneumonia.  Intubated in the
   emergency room.  Extubated yesterday, tolerating well.
   - pneumonia treatment as below for HAP
   - continue mechanical ventilation; wean as possible, RISB in AM
   - hold on diuresis for now in setting of hypotension
   - repeat CXR in AM
   .
   # Hypotension/Shock: unclear etiology, could be either secondary to
   septic shock from PNA infection vs. cardiogenic shock from CHF.  Most
   likely component of sepsis or hypovolemia based on high Na and high Cr
   from baseline.
   - fluid resuccitate with free water
   - wean of levofed as tolerated for MAP >60
   - follow lactates
   .
   # Pneumonia: continue mechanical ventilation.  Treat as HAP as he is
   coming from an institution.
   - vanco/zosyn for broad coverage
   - sputum, blood cultures
   - consider flagyl if decompensating for aspiration
   - Will place PICC for likely prolonged antibiotic course and limited IV
   access
   .
   # NSTEMI: troponin leak, likely demand ischemia, had EKG changes with
   ST depression in precordial leads. Peak 1.82, trending down.
   - asa 325 mg daily, no heparin necessary
   - high dose statin
   - holding BB and ACEI in setting of hypotension
   - trend CEs
   - echo in AM
   .
   # CHF: echo last [**Month (only) **] showed mild hypokinesis and CXR consistent with
   fluid overload.  Rales on exam.  Likely component of his respiratory
   failure.  Hypotension resolved with 3 L NS and PRBCs.
   - hold on diuresis given hypotension
   - levofed as needed for now
   - echo in AM
   .
   # Afib: has hx of afib on coumadin, now is in NSR.
   - restart coumadin tomorrow if hct stable
   .
   # Anemia: has hct of 21 from baseline of high 20s to 30.  Unclear
   etiology of bleed. Has had transient lows like this in the past.
   - s/p 2 units of PRBCs
   - trend hcts q12hrs
   - guiac all stools
   .
   # DM: stable
   - ISS
   .
   # Hypernatremia: likely from poor PO intake and 4L free water deficit
   - D5W overnight, trend Na
   - Will check PM lytes
   .
   # UTI: has dirty UA, will follow culture.  Above abx should cover
   urinary pathogens.
   .
   # Sacral decubitus ulcer: wound consult today
   .
   # Dementia: unclear baseline, hold mirtazapine while sedated.
   .
   # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: on coumadin, famotidine
   # Access: fem line, art line
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP and could not
   get a hold of HCP.  [**Name (NI) 792**], daughter was reached and had verbal consent
   for blood.  [**Doctor First Name 792**] [**Telephone/Fax (1) 12035**], will call in AM.  Should also consider
   talking to PCP about code and mental status.
   # Code:  Full per discussion in ED
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-3-11**] 12:44 AM
   PICC Line - [**2190-3-11**] 08:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-03-12 11:24:00 Physician Attending Progress Note
Chief Complaint: Pneumonia/Hypoxemia, Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt able to answer that breathing comfortable and no pain
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-3-11**] 11:07 AM
 PICC LINE - START [**2190-3-11**] 08:13 PM
 MULTI LUMEN - STOP [**2190-3-11**] 09:25 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-3-11**] 08:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-12**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-3-12**] 04:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-3-12**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.3
   HR: 64 (64 - 95) bpm
   BP: 143/59(86) {116/46(70) - 164/71(105)} mmHg
   RR: 23 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                  3,119 mL
                                                                  1,625 mL
   PO:
           TF:
   IVF:
                                                                  2,862 mL
                                                                  1,059 mL
   Blood products:
                                                                    228 mL
                                                                    566 mL
   Total out:
                                                                    915 mL
                                                                    510 mL
   Urine:
                                                                    915 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                  1,115 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: 7.38/36/89.[**Numeric Identifier 299**]/21/-2
   PaO2 / FiO2: 254
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   128 K/uL
   98 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   56 mg/dL
   119 mEq/L
   146 mEq/L
   25.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2190-3-11**]  12:59 AM
                             [**2190-3-11**]  03:24 AM
                             [**2190-3-11**]  10:40 AM
                             [**2190-3-11**]  03:13 PM
                             [**2190-3-11**]  05:43 PM
                             [**2190-3-11**]  05:53 PM
                             [**2190-3-12**]  02:45 AM
   WBC
   10.1
   12.4
   10.4
   Hct
   26.6
   28.9
   25.3
   Plt
   137
   169
   128
   Cr
   1.1
   1.1
   1.1
   TropT
   1.76
   1.82
   1.79
   1.70
   TCO2
   24
   22
   Glucose
   107
   127
   98
   Other labs: PT / PTT / INR:32.5/46.4/3.3, CK / CKMB /
   Troponin-T:446/30/1.70, ALT / AST:32/60, Alk Phos / T Bili:74/0.6,
   Fibrinogen:353 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:380
   IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 IMPAIRED SKIN INTEGRITY
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   Hypoxemic respiratory failure:   Doing well post-extubation but does
   appear to have chronic problems handling his oral secretions
   Pneumonia: LLL looks slightly improved on CXR today.  vanc/Zosyn for
   HAP
   septic shock:  Off pressors, abx as above.
   anemia: Hct of 25 today - cont to trend.  Did have bleeding from new
   PICC site overnight
   chronic CHF:  TTE - unchanged from previous other than possbly slight
   decrease in LVEF (40-45%)
   NSTEMI: Troponin trending down.  Cont ASA
   Afib:  Hold Coumadin while INR supratheraopeutic
   hypernatremia: Na improving
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-3-11**] 12:44 AM
   PICC Line - [**2190-3-11**] 08:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor (if doing well in the afternoon)
   Total time spent:

2190-03-13 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed w/ 20 IV lasix, then 40 IV lasix.  i/O almost even on the day.
   Pt maintaining O2 sats in 90s on face-tent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-3-12**] 08:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-3-12**] 03:29 PM
   Furosemide (Lasix) - [**2190-3-12**] 03:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-13**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 85 (64 - 86) bpm
   BP: 140/54(83) {133/48(78) - 164/71(105)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,840 mL
                                                                    267 mL
   PO:
             TF:
                                                                    292 mL
                                                                    214 mL
   IVF:
                                                                  1,703 mL
                                                                     53 mL
   Blood products:
                                                                    566 mL
   Total out:
                                                                  2,650 mL
                                                                    540 mL
   Urine:
                                                                  2,650 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Labs / Radiology
   147 K/uL
   10.4 g/dL
   96 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.6 mEq/L
   51 mg/dL
   115 mEq/L
   143 mEq/L
   30.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2190-3-11**]  12:59 AM
                             [**2190-3-11**]  03:24 AM
                             [**2190-3-11**]  10:40 AM
                             [**2190-3-11**]  03:13 PM
                             [**2190-3-11**]  05:43 PM
                             [**2190-3-11**]  05:53 PM
                             [**2190-3-12**]  02:45 AM
                             [**2190-3-12**]  03:13 PM
                             [**2190-3-13**]  04:27 AM
   WBC
   10.1
   12.4
   10.4
   11.0
   11.5
   Hct
   26.6
   28.9
   25.3
   30.5
   30.8
   Plt
   137
   169
   128
   148
   147
   Cr
   1.1
   1.1
   1.1
   1.1
   TropT
   1.76
   1.82
   1.79
   1.70
   TCO2
   24
   22
   Glucose
   107
   127
   98
   96
   Other labs: PT / PTT / INR:32.5/46.4/3.3, CK / CKMB /
   Troponin-T:446/30/1.70, ALT / AST:32/60, Alk Phos / T Bili:74/0.6,
   Fibrinogen:353 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:380
   IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y/o M with multiple medical problems including chronic aspiration,
   afib on coumadin, CVAs, and CAD who presents with hypoxia, consistent
   with PNA and possible septic shock and well as potential CHF.
   .
   # Hypoxic Respiratory Failure: likely secondary to CHF, although
   probably has component of infection.  Patient is a chronic aspirator
   per report and could have aspiration pneumonia.  Intubated in the
   emergency room.  Extubated 2 days ago, and CXR with possible worsening
   fluid overload.
   - pneumonia treatment as below for HAP
   - lasix 20 mg IV x1 with goal net negative 1 L
   .
   # Hypotension/Shock: unclear etiology, could be either secondary to
   septic shock from PNA infection vs. cardiogenic shock from CHF.  Now
   improved. Most likely component of sepsis or hypovolemia based on high
   Na and high Cr from baseline.
   - resolved, now Pt somewhat hypertensive
   - Home BP meds resumed
   .
   # Pneumonia: Extubated successfully  Treat as HAP as he is coming from
   an institution.
   - vanco/zosyn for broad coverage
   - sputum, blood cultures
   - consider flagyl if decompensating for aspiration
   - picc placed for IV abx
   .
   # NSTEMI: troponin leak, likely demand ischemia now downtrending, had
   EKG changes with ST depression in precordial leads. Peak 1.82,
   - asa 325 mg daily, no heparin necessary
   - high dose statin
   - restart BB
   - restart ACEI
   .
   # CHF: echo last [**Month (only) **] showed mild hypokinesis and CXR consistent with
   fluid overload.  Rales on exam.  Likely component of his respiratory
   failure.  Hypotension resolved with 3 L NS and PRBCs. Echo with stable
   EF.
   - I/O even yesterday. Will diurese w/ lasix again this AM.
   - restarted  Ace-I this AM
   .
   # Afib: has hx of afib on coumadin, now is in NSR.
   - hold Coumadin for supratherapeutic INR
   .
   # Anemia: has hct of 21 from baseline of high 20s to 30.  Unclear
   etiology of bleed. Has had transient lows like this in the past.
   - s/p 4 units of PRBCs
   - trend hcts q12hrs
   - guiac all stools
   .
   # DM: stable
   - ISS
   .
   # Hypernatremia: likely from poor PO intake and 4L free water deficit.
   Na improved.
   - trend lytes
   .
   # UTI: has dirty UA, will follow culture.  Above abx should cover
   urinary pathogens.
   .
   # Sacral decubitus ulcer: wound consult today
   .
   # Dementia: unclear baseline, hold mirtazapine for now .
   .
   # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: on coumadin, famotidine
   # Access: picc line, art line
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP and could not
   get a hold of HCP.  [**Name (NI) 792**], daughter was reached and had verbal consent
   for blood.  [**Doctor First Name 792**] [**Telephone/Fax (1) 12035**], will call in AM.  Should also consider
   talking to PCP about code and mental status.
   # Code:  Full per discussion in ED
   # Disposition: ICU pending clinical improvement, call out to floor in
   AM
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-3-13**] 04:36 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-3-11**] 12:44 AM
   PICC Line - [**2190-3-11**] 08:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-03-13 11:07:00 Physician Attending Progress Note
Chief Complaint: Aspiration Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well overnight - no acute issues
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-3-13**] 07:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-3-12**] 03:29 PM
   Furosemide (Lasix) - [**2190-3-12**] 03:54 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Cough
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-3-13**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 79 (66 - 88) bpm
   BP: 132/50(78) {132/46(78) - 155/61(93)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,840 mL
                                                                  1,101 mL
   PO:
             TF:
                                                                    292 mL
                                                                    512 mL
   IVF:
                                                                  1,703 mL
                                                                    409 mL
   Blood products:
                                                                    566 mL
   Total out:
                                                                  2,650 mL
                                                                    810 mL
   Urine:
                                                                  2,650 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   147 K/uL
   120 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.5 mEq/L
   51 mg/dL
   115 mEq/L
   144 mEq/L
   30.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2190-3-11**]  12:59 AM
                             [**2190-3-11**]  03:24 AM
                             [**2190-3-11**]  10:40 AM
                             [**2190-3-11**]  03:13 PM
                             [**2190-3-11**]  05:43 PM
                             [**2190-3-11**]  05:53 PM
                             [**2190-3-12**]  02:45 AM
                             [**2190-3-12**]  03:13 PM
                             [**2190-3-13**]  04:27 AM
   WBC
   10.1
   12.4
   10.4
   11.0
   11.5
   Hct
   26.6
   28.9
   25.3
   30.5
   30.8
   Plt
   137
   169
   128
   148
   147
   Cr
   1.1
   1.1
   1.1
   1.1
   1.2
   TropT
   1.76
   1.82
   1.79
   1.70
   1.76
   TCO2
   24
   22
   Glucose
   107
   127
   98
   96
   120
   Other labs: PT / PTT / INR:34.0/43.8/3.5, CK / CKMB /
   Troponin-T:305/24/1.76, ALT / AST:32/60, Alk Phos / T Bili:74/0.6,
   Differential-Neuts:84.7 %, Band:0.0 %, Lymph:7.9 %, Mono:4.8 %, Eos:2.4
   %, Fibrinogen:353 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL,
   LDH:380 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 .H/O HEART DISEASE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 IMPAIRED SKIN INTEGRITY
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   78 yo man with likely aspiration pneumonia
   Pneumonia: Extubated and doing well.  Cont vanc/Zosyn for HAP
   anemia: Hct 30 --> 4 units total pRBCs since admission
   NSTEMI: Cont ASA
   Afib:  Hold Coumadin while INR supratheraopeutic
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-3-13**] 04:36 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-3-11**] 12:44 AM
   PICC Line - [**2190-3-11**] 08:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:  Discussed with son.  [**Name (NI) **] does still state
   that he wants to get consenus from his sisters before changing code
   status and acknowledeges that issue has been dragging out.  He says
   that he is actually in favor DNR/DNI/Do Not Hospitalize but cannot get
   his siblings to discuss as a group and is not willing to change the
   code status without their support.  Palliative consult may be
   beneficial in this setting.
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: